US05028728
11.5 g (0.1 mol) of methanesulfonyl chloride are added dropwise, at a reaction temperature of 0-5° C., to a mixture of 21.3 g (0.05 mol) of 2,2-bis-(4-hydroxy-3-nitrophenyl)-hexafluoropropane and 100 ml of pyridine. Stirring is continued for 1 hour at 5° C. and overnight at room temperature. The reaction mixture is then acidified, first with dilute hydrochloric and then with half-concentrated hydrochloric acid; the precipitate which is deposited is filtered off with suction and washed with water until neutral. The crude product (29.3 g) is then recrystallized from toluene, resulting in 24.8 g of analytically pure 2,2-bis-(4-mesyloxy-3-nitrophenyl)-hexafluoropropane to be isolated. Yield 85%; m.p. 119-121° C.

reactant | methanesulfonyl chloride | 0.1 mol, 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,2-bis-(4-hydroxy-3-nitrophenyl)-hexafluoropropane | 0.05 mol, 21.3 g | OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C15H8F6N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-bis-(4-mesyloxy-3-nitrophenyl)-hexafluoropropane | Yield 85% | S(=O)(=O)(C)OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)OS(=O)(=O)C)[N+](=O)[O-])[N+](=O)[O-] | C17H12F6N2O10S2
